US04017522
N-methyl-N-(2-furoyloxyethyl)lauramide
N-methyl-N-(2-furoyloxyethyl)lauramide was prepared by the procedure of example 1 from 26 gms. (0.1 mole) of N-methyl-N-(2-hydroxyethyl)lauramide and 13 gms. (0.1 mole) of furoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N-methyl-N-(2-hydroxyethyl)lauramide | 0.1 mole | CN(C(CCCCCCCCCCC)=O)CCO | C15H31NO2
reactant | furoyl chloride | 0.1 mole | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | N-methyl-N-(2-furoyloxyethyl)lauramide | CN(C(CCCCCCCCCCC)=O)CCOC(=O)C=1OC=CC1 | C20H33NO4
